US09085530B2
The synthesis of 4-amino-2,3-dihydro-1H-isoindol-1-one
A mixture of 4-nitro-2,3-dihydro-1H-isoindol-1-one (20 g), ammonium formate (35 g) and 7.5% Pd/C (0.6 g) in methanol (60 ml) was stirred for 2 hours by heating up to 35° C. Pd/C was filtered and the filtrate concentrated under reduced pressure. The residue was recrystallized from water to give 15.3 g of light yellow solid. yield: 92%. mp: 195.6-197° C.

reactant | 4-nitro-2,3-dihydro-1H-isoindol-1-one | 20 g | [N+](=O)([O-])C1=C2CNC(C2=CC=C1)=O | C8H6N2O3
reactant | ammonium formate | 35 g | C(=O)[O-].[NH4+]
solvent | methanol | 60 ml | CO | CH4O
catalyst | Pd/C | 0.6 g | [Pd] | Pd
product | 4-amino-2,3-dihydro-1H-isoindol-1-one | yield: 92% | NC1=C2CNC(C2=CC=C1)=O | C8H8N2O
